US07371757B2
(b) 1-cyclopropylmethyl-6-hydrazinopyrimidine-2,4[1H,3H]dione
6-Chloro-1-cyclopropylmethyluracil (24.34 g, 0.12 mol) was suspended in absolute ethanol (245 mL) under nitrogen. Anhydrous hydrazine (11.69 g, 0.36 mol) was added via syringe in excess, resulting in a clear-yellow solution. The reaction mixture was heated at 80-85° C. for one hour; bright yellow crystals began forming within minutes of the application of heat. The reaction mixture was cooled to room temperature and then in an ice bath, and the crude product collected by filtration. N2H4×HCl was removed by triturating with cold water to give the product as a pale yellow solid, 20.47 g (86%). Mp 221° C. (dec).

reactant | 6-Chloro-1-cyclopropylmethyluracil | 0.12 mol, 24.34 g | ClC1=CC(NC(N1CC1CC1)=O)=O | C8H9ClN2O2
reactant | hydrazine | 0.36 mol, 11.69 g | NN | H4N2
solvent | ethanol | 245 mL | C(C)O | C2H6O
product | 1-cyclopropylmethyl-6-hydrazinopyrimidine-2,4[1H,3H]dione | C1(CC1)CN1C(NC(C=C1NN)=O)=O | C8H12N4O2
